US07482354B2
Methyl 2-fluoro-5-nitro-benzoate
A solution of 2-fluoro-5-nitro-benzoic acid (3.702 g, 20 mmol) in anhydrous methanol (10.00 mL) was treated with 98% sulphuric acid and the solution was heated to reflux for 4 hours. The solvent was removed under vacuum and the residue was dissolved in ethyl acetate (50 mL). The solution was washed with saturated aqueous sodium bicarbonate (3×10 mL), brine until neutrality ant then water, and dried over anhydrous sodium sulphate. The solvent was removed under vacuum to afford a thick oil that started to crystallize, After adding n-hexane (3 mL) the crude was stored for 2 days in the fridge. The crystalline compound was filtered and washed with n-hexane to yield 3.147 g of the pure compound.

reactant | 2-fluoro-5-nitro-benzoic acid | 20 mmol, 3.702 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10.00 mL | CO | CH4O
product | Methyl 2-fluoro-5-nitro-benzoate | 3.147 g | FC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6FNO4
